US04547506
2-[N-(3-aminopropyl)-N-(2-chlorobenzyl)amino]pyridine (1 g) and 2-nitroamino-5-(6-methylpyrid-3-ylmethyl)pyrimid-4-one (0.78 g) were heated together under reflux in pyridine (10 ml) for 20 hr. After stripping, the residue was triturated with ether and recrystallised twice from ethanol/water to give 2-[3-[N-(2-chlorobenzyl)-N-pyrid-2-ylamino]propylamino]-5-(6-methylpyrid-3-ylmethyl)-pyrimid-4-one 0.4H2O, 0.34 g (20%) mp softens 94°-102° C. melts 120°-26° C.

reactant | 2-[N-(3-aminopropyl)-N-(2-chlorobenzyl)amino]pyridine | 1 g | NCCCN(CC1=C(C=CC=C1)Cl)C1=NC=CC=C1 | C15H18ClN3
reactant | 2-nitroamino-5-(6-methylpyrid-3-ylmethyl)pyrimid-4-one | 0.78 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C | C11H11N5O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-[3-[N-(2-chlorobenzyl)-N-pyrid-2-ylamino]propylamino]-5-(6-methylpyrid-3-ylmethyl)-pyrimid-4-one | ClC1=C(CN(C2=NC=CC=C2)CCCNC2=NC=C(C(N2)=O)CC=2C=NC(=CC2)C)C=CC=C1 | C26H27ClN6O
